US07378415B2
A solution of 1-(6-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-3-chloro-propan-1-one (0.100 g., 0.273 mmol) in 4 mL of 2 M methanolic H2NMe was heated in a microwave reactor in a sealed reaction vessel at 80° C. for 2 minutes, then at 130° C. for 8 minutes. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (24:1:0.1 of CH2Cl2:MeOH:NH4OH) to give 0.092 g (93%) of 1-(6-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-3-methylamino-propan-1-one as a clear oil. MS: 361 (M+H)+, mp: 208.3-214.7° C. (as hydrochloride).

reactant | 1-(6-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-3-chloro-propan-1-one | 0.273 mmol, 0.100 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(N(CCO2)C(CCCl)=O)C1 | C17H16ClNO4S
reactant | H2NMe | 2 M, 4 mL | NC | CH5N
product | 1-(6-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-3-methylamino-propan-1-one | 0.092 g, 93% | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(N(CCO2)C(CCNC)=O)C1 | C18H20N2O4S
